US07384934B2
Combine 2-[4-(2-Isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-yl)-piperazin-2-yl]-ethanol (0.161 g, 0.433 mmol), formaldehyde (46 μL, 0.563 mmol, 37%), and sodium triacetoxyborohydride (0.138 g, 0.650 mmol) in dichloroethane (15 mL) and stir at room temperature overnight. Dilute the mixture with saturated sodium bicarbonate and extract three times with methylene chloride. Combine the organic layers, dry over sodium sulfate and concentrate under reduced pressure to give the crude product. Purification by flash chromatography, eluting with a step gradient starting with dichloromethane going to 8% 2N ammonia-methanol in dichloromethane gives (S)-2-[4(2-isopropyl-4H-3-thia-1,4,9-triazabenzo[f]azulen-10-yl)-1-methylpiperazin-2-yl]ethanol (0.059 g, 0.153 mmol, 35%) as a yellow oil. Mass spectrum (APCI): m/z=386.4 (M+1). Isolate clean product as the corresponding dihydrochloride in the following manner: dissolve the yellow oil in ethanol (5 mL) and add a solution of about 5 equivalents of HCl in ethanol (5 mL). Evaporate the mixture to obtain (S)-2-[4-(2-isopropyl-4H-3-thia-1,4,9-triazabenzo[f]azulen-10-yl)-1-methylpiperazin-2-yl]ethanol dihydrochloride.

reactant | 2-[4-(2-Isopropyl-4H-3-thia-1,4,9-triaza-benzo[f]azulen-10-yl)-piperazin-2-yl]-ethanol | 0.433 mmol, 0.161 g | C(C)(C)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3CC(NCC3)CCO | C19H25N5OS
reactant | formaldehyde | 0.563 mmol, 46 μL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.650 mmol, 0.138 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (S)-2-[4(2-isopropyl-4H-3-thia-1,4,9-triazabenzo[f]azulen-10-yl)-1-methylpiperazin-2-yl]ethanol | 0.153 mmol, 0.059 g, 35% | C(C)(C)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](N(CC3)C)CCO | C20H27N5OS
